US08034827B2
b) 2-(4-Pyridin-4-yl-piperazin-1-yl)-ethylamine
A stirred mixture of 2-[2-(4-pyridin-4-yl-piperazin-1-yl)-ethyl]-isoindole-1,3-dione (1.52 g, 4.52 mmol), ethanol (47.5 mL), water (2.5 mL) and hydrazine hydrate (98%, 0.438 mL, 9.04 mmol) was refluxed for 3 h, then cooled and diluted with diethyl ether (100 mL). The precipitated crystals were filtered off, washed with diethyl ether and filtrate was concentrated. The residue was dissolved N sodium hydroxide (25 mL), extracted with dichloromethane (4×25 mL), the combined organic layers were washed with brine (25 mL), dried over sodium sulfate, filtered and concentrated to yield 0.58 g (62%) of the title compound as a colorless oil.

reactant | 2-[2-(4-pyridin-4-yl-piperazin-1-yl)-ethyl]-isoindole-1,3-dione | 4.52 mmol, 1.52 g | N1=CC=C(C=C1)N1CCN(CC1)CCN1C(C2=CC=CC=C2C1=O)=O | C19H20N4O2
reactant | ethanol | 47.5 mL | C(C)O | C2H6O
reactant | water | 2.5 mL | O | H2O
reactant | hydrazine hydrate | 9.04 mmol, 0.438 mL | O.NN
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 2-(4-Pyridin-4-yl-piperazin-1-yl)-ethylamine | 0.58 g, 62% | N1=CC=C(C=C1)N1CCN(CC1)CCN | C11H18N4
